US07795236B2
8-[3′-(3-Guanidinopropoxy)biphenyl-4-ylmethylamino]-adenosine
8-[3′-(3-Aminopropoxy)biphenyl-4-ylmethylamino]-adenosine (0.2 g) was suspended in tetrahydrofuran (2 mL), N-benzyloxycarbonyl-1H-pyrazole-1-carboxamidine (0.47 g) was added, and the resulting mixture was stirred at 60° C. for 24 hours. The reaction mixture was concentrated under reduced pressure and the residue obtained was purified by column chromatography on aminopropylated silica gel (eluent: ethyl acetate/methanol=8/1-6/1). A mixture of the compound obtained and 10% palladium on carbon (43.8 wt % H2O, 0.05 g) in methanol (2 mL) was stirred at room temperature for 4 hours under a hydrogen atmosphere. The insoluble material was filtered out and the filtrate was concentrated under reduced pressure to give the title compound (0.05 g).

reactant | 8-[3′-(3-Aminopropoxy)biphenyl-4-ylmethylamino]-adenosine | 0.2 g | NCCCOC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C26H31N7O5
reactant | N-benzyloxycarbonyl-1H-pyrazole-1-carboxamidine | 0.47 g | C(C1=CC=CC=C1)OC(=O)NC(=N)N1N=CC=C1 | C12H12N4O2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | methanol | 2 mL | CO | CH4O
product | 8-[3′-(3-Guanidinopropoxy)biphenyl-4-ylmethylamino]-adenosine | 0.05 g | N(C(=N)N)CCCOC=1C=C(C=CC1)C1=CC=C(C=C1)CNC=1N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=2N=CN=C(C2N1)N | C27H33N9O5
